US04923865
2-hydroxy-3-[(1H-imidazol-4-yl)methyl]-benzoic acid (hydrochloride). 1 g of 2-hydroxy-3-[(1H-imidazol-4-yl)methyl]-benzenemethanol (prepared by the method described in Example 6.1 of the abovementioned U.S. patent application Ser. No. 116,325) is heated at 180° C. for two hours and a half and with thorough stirring, in the presence of 7.5 g of potassium hydroxide. The reaction mixture is then cooled and dissolved in 10 ml of water. The aqueous solution is acidified to pH 3-4 by addition of concentrated hydrochloric acid. The precipitate which separates is filtered off and dried, and is then extracted with boiling isopropyl alcohol. The isopropyl alcohol is then eliminated under reduced pressure, and the crystalline residue obtained is recrystallized in 5 ml of an 1N aqueous solution of hydrochloric acid. 0.74 g of 2-hydroxy-3-[(1H-imidazol-4-yl)methyl]-benzoic acid hydrochloride is obtained.

reactant | 2-hydroxy-3-[(1H-imidazol-4-yl)methyl]-benzoic acid | OC1=C(C(=O)O)C=CC=C1CC=1N=CNC1 | C11H10N2O3
reactant | 2-hydroxy-3-[(1H-imidazol-4-yl)methyl]-benzenemethanol | 1 g | OC1=C(C=CC=C1CC=1N=CNC1)CO | C11H12N2O2
reactant | potassium hydroxide | 7.5 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 10 ml | O | H2O
product | 2-hydroxy-3-[(1H-imidazol-4-yl)methyl]-benzoic acid hydrochloride | 0.74 g, Yield: 58% | Cl.OC1=C(C(=O)O)C=CC=C1CC=1N=CNC1 | InChI=1S/C11H10N2O3.ClH/c14-10-7(4-8-5-12-6-13-8)2-1-3-9(10)11(15)16;/h1-3,5-6,14H,4H2,(H,12,13)(H,15,16);1H
